US04945164
(a) Ethyl 3,5-dichloro-4-[3-(3-methylisoxazol-5-yl)propyloxy]benzoate.
To a mixture of 10.05 g ethyl 3,5-dichloro-4-hydroxybenzoate and 8.0 g 5-(3-chloropropyl)-3-methylisoxazole in 550 ml dry acetonitrile was added 4.87 g potassium hydroxide and 12.9 g potassium iodide. The reaction mixture was stirred at reflux overnight and then filtered and concentrated in vacuo. The residue was partitioned between ethyl acetate and water and the organic layer concentrated to a yellow oil. The latter was crystallized from ethyl acetate-hexane (1:4) at -50° C. to give 14 g of product, 12 g of which was used directly in the following hydrolysis reaction. A sample of the ester was purified by chromatography on silica to give pure compound, m.p. 49°-50° C.

reactant | ethyl 3,5-dichloro-4-hydroxybenzoate | 10.05 g | ClC=1C=C(C(=O)OCC)C=C(C1O)Cl | C9H8Cl2O3
reactant | 5-(3-chloropropyl)-3-methylisoxazole | 8.0 g | ClCCCC1=CC(=NO1)C | C7H10ClNO
reactant | potassium hydroxide | 4.87 g | [OH-].[K+]
reactant | potassium iodide | 12.9 g | [I-].[K+]
solvent | acetonitrile | 550 ml | C(C)#N | C2H3N
product | Ethyl 3,5-dichloro-4-[3-(3-methylisoxazol-5-yl)propyloxy]benzoate | 14 g | ClC=1C=C(C(=O)OCC)C=C(C1OCCCC1=CC(=NO1)C)Cl | C16H17Cl2NO4
